US07625908B2
The procedure described in Example 3 (preparation of starting materials) was repeated using glycolic acid and 4-{[5-(2-aminoethoxy)quinazolin-4-yl]amino}-2-methylphenol to give 2-hydroxy-N-[2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)ethyl]acetamide as a light brown solid in 58% yield; NMR spectrum (DMSO-d6) 2.16 (s, 3H), 3.69 (q, 2H), 3.76 (d, 2H), 4.43 (t, 2H), 6.82 (d, 1H), 7.30 (m, 4H), 7.90 (t, 1H), 8.20 (t, 1H), 8.66 (s, 1H), 9.42 (s, 1H), 10.55 (s, 1H); Mass spectrum MH+ 369.

reactant | glycolic acid | C(CO)(=O)O | C2H4O3
reactant | 4-{[5-(2-aminoethoxy)quinazolin-4-yl]amino}-2-methylphenol | NCCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C | C17H18N4O2
product | 2-hydroxy-N-[2-({4-[(4-hydroxy-3-methylphenyl)amino]quinazolin-5-yl}oxy)ethyl]acetamide | 58% yield | OCC(=O)NCCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)O)C | C19H20N4O4
